US04628057
Ethyl (3S)-2-[(4-chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate
In the same manner as described in Example 53, ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (2.00 g), triethylamine (1.07 g), carbon disulfide (0.65 ml), ethanol (60 ml) and 4-chlorobenzyl chloride (1.72 g) are reacted and treated. The product is recrystallized from ethyl acetate-n-hexane to give the title compound (2.59 g, 60%) as pale yellow needles, m.p. 195°-197° C.

reactant | ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 2.00 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H16N2O2
reactant | triethylamine | 1.07 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.65 ml | C(=S)=S | CS2
reactant | 4-chlorobenzyl chloride | 1.72 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Ethyl (3S)-2-[(4-chlorobenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 2.59 g, 60% | ClC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3C[C@H]2C(=O)OCC)C=C1 | C22H21ClN2O2S2
